US08067362B2
4-(15-tert-Butoxycarbonylpentadecanoylamino)benzoic acid methyl ester (235 mg, 0.495 mmol) was evaporated twice from dry pyridine and once from dry acetonitrile, dissolved in dry DMF (4 mL) under nitrogen. 60% NaH (14 mg, 0.594 mmol) was added and the mixture was stirred for 20 minutes at room temperature under nitrogen, tert-Butyl bromoacetate (0.11 mL, 0.742 mmol) was added and the mixture was stirred for 1 hour, the reaction was quenched with ice and separated between water (50 mL) and diethylether (75 mL). The organic phase was dried (Na2SO4) and solvent remove in vacuo. The crude material was dissolved in ethanol (4 mL). NaOH (5 N, 0.15 mL) was added and the mixture was stirred for 1 hour. pH was adjusted to pH=5 with acetic acid and the mixture was separated between water and ethyl acetate. The organic phase was dried (Na2SO4) and solvent removed in vacuo to give the crude product which was purified on RP-HPLC, C-18 with acetonitrile/water gradient (75-95%) containing 0.1% TFA. To give pure 4-[tert-Butoxycarbonylmethyl-(15-tert-butoxycarbonylpentadecanoyl)amino]benzoic acid) (53 mg, 19%)

reactant | 4-(15-tert-Butoxycarbonylpentadecanoylamino)benzoic acid methyl ester | 0.495 mmol, 235 mg | COC(C1=CC=C(C=C1)NC(CCCCCCCCCCCCCCC(=O)OC(C)(C)C)=O)=O | C28H45NO5
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | NaH | 0.594 mmol, 14 mg | [H-].[Na+]
reactant | tert-Butyl bromoacetate | 0.742 mmol, 0.11 mL | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | acetonitrile | C(C)#N | C2H3N
product | 4-[tert-Butoxycarbonylmethyl-(15-tert-butoxycarbonylpentadecanoyl)amino]benzoic acid | C(C)(C)(C)OC(=O)CN(C1=CC=C(C(=O)O)C=C1)C(CCCCCCCCCCCCCCC(=O)OC(C)(C)C)=O | C33H53NO7
